US07507740B2
(ii) Production of 5-(2-aminoethyl)-N-[3-chloro-4-(3-chlorophenoxy)phenyl]-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride
To a solution of tert-butyl 2-(4-{[3-chloro-4-(3-chlorophenoxy)phenyl]amino}-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethylcarbamate (1.69 g) in tetrahydrofuran (32 mL) was added 2N hydrochloric acid (16 mL). The reaction mixture was stirred at 65° C. for 18 hrs and concentrated. Ethanol was added, and the mixture was concentrated again. Ethyl acetate and diisopropyl ether were added to the residue, and the precipitate was collected by filtration and washed with diisopropyl ether to give the title compound (1.50 g) as crystals.

reactant | tert-butyl 2-(4-{[3-chloro-4-(3-chlorophenoxy)phenyl]amino}-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethylcarbamate | 1.69 g | ClC=1C=C(C=CC1OC1=CC(=CC=C1)Cl)NC=1C2=C(N=CN1)C=CN2CCNC(OC(C)(C)C)=O | C25H25Cl2N5O3
reactant | hydrochloric acid | 2N, 16 mL | Cl | ClH
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
product | 5-(2-aminoethyl)-N-[3-chloro-4-(3-chlorophenoxy)phenyl]-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride | 1.50 g | Cl.Cl.NCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)Cl)Cl | InChI=1S/C20H17Cl2N5O.2ClH/c21-13-2-1-3-15(10-13)28-18-5-4-14(11-16(18)22)26-20-19-17(24-12-25-20)6-8-27(19)9-7-23;;/h1-6,8,10-12H,7,9,23H2,(H,24,25,26);2*1H
